US08431599B2
2-Isocyano-1-(4-methyl-piperazin-1-yl)-ethanone VIB 01128
Prepared in accordance with Method B with methyl isocyanoacetate (1.0 g, 10.09 mmol) and N-methylpiperazine (1.37 mL, 15.14 mmol). The reaction mixture was stirred overnight at RT and then concentrated. The residue was dissolved in dichloromethane (50 mL) and evaporated. The residue was coevaporated three times with a mixture of CH2Cl2:cyclohexane=50:50 (3×10 mL). After drying 2-isocyano-1-(4-methyl-piperazin-1-yl)-ethanone VIB 01128 was obtained as yellow solid (1.67 g, 99% yield).

reactant | methyl isocyanoacetate | 10.09 mmol, 1.0 g | [N+](#[C-])CC(=O)OC | C4H5NO2
reactant | N-methylpiperazine | 15.14 mmol, 1.37 mL | CN1CCNCC1 | C5H12N2
product | 2-Isocyano-1-(4-methyl-piperazin-1-yl)-ethanone | 1.67 g, 99% yield | [N+](#[C-])CC(=O)N1CCN(CC1)C | C8H13N3O
